US09328116B2
A mixture of 3-bromo-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one (0.055 g, 0.15 mmol), 4-amino-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile (0.050 g, 0.31 mmol) and K2CO3 (0.050 g, 0.36 mmol) in DMF (2.0 mL) was stirred at 60° C. for 1 hr. The mixture was then cooled to room temperature, quenched with water (30 mL), and extracted with IPA:CHCl3 (1:2 v/v, 100 mL). The organic layer was separated, dried over anhydrous sodium sulfate, concentrated in vacuo and purified by flash chromatography (SiO2, 0˜10% MeOH/EtOAc gradient elution) to give 4-amino-1-[1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-2-oxo-pyrrolidin-3-yl]pyrazolo[3,4-d]pyrimidine-3-carbonitrile (0.055 g, 82%).

reactant | 3-bromo-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.15 mmol, 0.055 g | BrC1C(N(CC1)C=1C=NN(C1C(C)C)C1=CC=C(C=C1)F)=O | C16H17BrFN3O
reactant | 4-amino-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile | 0.31 mmol, 0.050 g | NC1=C2C(=NC=N1)NN=C2C#N | C6H4N6
reactant | K2CO3 | 0.36 mmol, 0.050 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4-amino-1-[1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-2-oxo-pyrrolidin-3-yl]pyrazolo[3,4-d]pyrimidine-3-carbonitrile | 0.055 g, 82% | NC1=C2C(=NC=N1)N(N=C2C#N)C2C(N(CC2)C=2C=NN(C2C(C)C)C2=CC=C(C=C2)F)=O | C22H20FN9O
